US07427600B2
Boc-Leu-Glu-OtBu
To a solution of Boc-Leu-OSu and Glu-OtBu in DMF was added NMM and DMAP. The solution was stirred at ambient temperatures for 18 hours then the solvent was removed. Crude product was taken up in 100 ml CHCl3, washed 3× with pH 3 water (100 ml), once with water (100 ml) and once with brine (100 ml). Organic layer was dried with MgSO4 and filtered. Solvent was removed and solid was dried over vacuum. Solid was collected as a white powder (8.78 g, quant. yield, ˜80% purity TLC). Product was used directly without further characterization.

reactant | Boc-Leu-OSu | N([C@@H](CC(C)C)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C15H24N2O6
reactant | Glu-OtBu | N[C@@H](CCC(O)=O)C(=O)OC(C)(C)C | C9H17NO4
reactant | NMM | CN1CCOCC1 | C5H11NO
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | Boc-Leu-Glu-OtBu | quant. yield | N([C@@H](CC(C)C)C(=O)N[C@@H](CCC(O)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C20H36N2O7
